US04469868
A mixture of 8 g (0.04 mol) of 7-chloro-1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidine (Ex. 3), 4.5 g (0.045 mol) of L-valinol (2-amino-3-methyl-1-butanol) and 8 ml of triethylamine in 50 ml of dimethylformamide is stirred at 50°-55° C. for 50 hours and evaporated in vacuo. The residue is dissolved in methylene dichloride, washed with a saturated solution of sodium bicarbonate, dried over MgSO4, and evaporated in vacuo. The residue is stirred in pet ether to give 4.8 g (45%) of 2-[1,3,5-trimethyl-1H-pyrazolo[4,3-d]-pyrimidine-7-yl]amino-3-methyl-1-butanol, mp 166°-168° C. from acetonitrile.

reactant | 7-chloro-1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidine | 0.04 mol, 8 g | ClC=1C2=C(N=C(N1)C)C(=NN2C)C | C8H9ClN4
reactant | L-valinol | 0.045 mol, 4.5 g | N[C@@H](C(C)C)CO | C5H13NO
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[1,3,5-trimethyl-1H-pyrazolo[4,3-d]-pyrimidine-7-yl]amino-3-methyl-1-butanol | 4.8 g, 45% | CN1N=C(C=2N=C(N=C(C21)NC(CO)C(C)C)C)C | C13H21N5O
